US05599770
Synthesis of 4-chloro-6-methoxy-2-(phenylmethoxy)pyrimidine (Compound I-346)
4-Chloro-6-methoxy-2-(methylsulfonyl)pyrimidine (Compound III-29) (0.80 g, 0. 0036 mol) and benzyl alcohol (Compound II-64) (0.39 g, 0.0036 mol) were dissolved in toluene (10 ml), and then 60% sodium hydride (0.16 g, 0.0036×1.1 mol) was added while cooling with ice. After stirred for one night at room temperature, the reaction solution was poured into water and extracted with ethyl acetate. The organic phase was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and filtered, and thereafter, the solvent was distilled off to afford a crude product (0.92 g), which was then purified on silica gel column chromatography to obtain the compound (I-346) as an oily product.

reactant | 4-Chloro-6-methoxy-2-(methylsulfonyl)pyrimidine | 0.80 g | ClC1=NC(=NC(=C1)OC)S(=O)(=O)C | C6H7ClN2O3S
reactant | benzyl alcohol | 0.0036 mol, 0.39 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 1.1 mol, 0.16 g | [H-].[Na+]
reactant | water | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-6-methoxy-2-(phenylmethoxy)pyrimidine | 0.92 g | ClC1=NC(=NC(=C1)OC)OCC1=CC=CC=C1 | C12H11ClN2O2
